US08026257B2
(±)-3-Methyl-7-(1-((1-methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole.
(±)-3-Methyl-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole (32 mg, 0.08 mmol) and formaldehyde (37 wt. % solution in water, 120 μL) were combined in acetonitrile (2 mL) and cooled to 0° C. The reaction was treated with sodium cyanoborohydride (24 mg, 0.38 mmol) and a few drops of acetic acid. The reaction was stirred at 0° C. for 30 min and at room temperature for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvents were evaporated and the compound purified by flash chromatography on silica gel (1% ammonia/8% methanol/methylene chloride) to afford 20 mg (61%). 1H-NMR (CDCl3, 500 MHz) δ 7.95 (s, 1H), 7.30-7.40 (m, 5H), 7.21-7.44 (m, 1H), 4.40 (q, J=6.7 Hz, 1H), 3.39 (q, J=9.2 Hz, 1H), 3.33 (d, J=9.2 Hz, 1H), 2.59 (s, 3H), 2.54 (m, 2H), 2.19-2.26 (m, 4H), 2.03-2.07 (m, 2H), 1.46 (m, 3H); 13C-NMR (126 MHz, CDCl3) δ ppm 143.7, 139.0, 128.7, 127.3, 127.2, 126.7, 124.9 (q, J=272 Hz), 122.9, 122.6 (q, J=32.6 Hz), 119.7, 117.4, 78.4, 52.0, 51.9, 46.6, 40.7, 32.6, 22.0, 11.9. Mass spec.: 418.19 (MH)+. Mass spec.: 432.09 (MH)+.

reactant | (±)-3-Methyl-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole | 0.08 mmol, 32 mg | CC1=NNC2=C(C=C(C=C12)C(F)(F)F)C(C)OCC1(CCNCC1)C1=CC=CC=C1 | C23H26F3N3O
reactant | formaldehyde | 120 μL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.38 mmol, 24 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (±)-3-Methyl-7-(1-((1-methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole | CC1=NNC2=C(C=C(C=C12)C(F)(F)F)C(C)OCC1(CCN(CC1)C)C1=CC=CC=C1 | C24H28F3N3O
